US06420381B1
Preparation of N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-(2,6-diisopropyl-4-aminophenyl)urea:
A suspension of N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-(2,6-diisopropyl-4-tritylaminophenyl)urea (273 mg, 0.348 mmol), a 10% palladium carbon (56 mg) in ethanol is stirred under hydrogen atmosphere at room temperature for 8 hours. The mixture is filtered on celite, and the solvent is concentrated under reduced pressure. The residue is purified by silica gel column chromatography to give the title compound (165 mg, 0.30 mmol) as crystals.

reactant | N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-(2,6-diisopropyl-4-tritylaminophenyl)urea | 0.348 mmol, 273 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=C(C=C1C(C)C)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(C)C)=O | C51H53N5O3
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium carbon | 56 mg | [C].[Pd]
product | N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-(2,6-diisopropyl-4-aminophenyl)urea | 0.30 mmol, 165 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=C(C=C1C(C)C)N)C(C)C)=O | C32H39N5O3
